US07713957B2
Synthesis of Ethyl 2-[4-(10,11-dihydro-5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethylcarbamate:
100 mg of palladium carbon (10% w/v) was added to 105 mg (0.261 mmol) of ethyl 2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethylcarbamate in 3 ml of ethanol, and they were stirred at 3.6 MPa in hydrogen gas atmosphere overnight. After the filtration, the solvent was evaporated under reduced pressure to obtain the title compound.

reactant | ethyl 2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethylcarbamate | 0.261 mmol, 105 mg | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CNC(OCC)=O)=O | C25H26N2O3
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | hydrogen | [H][H] | H2
catalyst | palladium carbon | 100 mg | [C].[Pd]
product | Ethyl 2-[4-(10,11-dihydro-5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethylcarbamate | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=C3CCN(CC3)C(CNC(OCC)=O)=O | C25H28N2O3
